### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/RootSystem): Characterize root system invariant submodules in terms of roots

### PR DESCRIPTION
**Pull request by jano-wol**
Characterize root system invariant submodules in terms of roots
---
This PR shows that invariant submodules either contain roots, or are perpendicular to them.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by ocfnash — COMMENTED** [review]
Thanks for this: lots of good lemmas here.

I've left some comments about the foundational API and will be able to return quickly for further review once you've addressed these. I have time for review again at last :)

File: Mathlib/LinearAlgebra/RootSystem/Defs.lean [hunk 1]
```diff
@@ -682,6 +682,35 @@ lemma _root_.RootSystem.reflection_perm_eq_reflection_perm_iff (P : RootSystem 
...
+  have : d ∈ span R (range P.coroot') := by
+    simp only [Submodule.mem_top, span_coroot_eq_top' P]
+  induction this using Submodule.span_induction with
+  | mem x hx' =>
+    rcases hx' with ⟨w, h⟩
+    subst h
+    exact h₁ w
+  | zero => simp only [Submodule.mem_top, LinearMap.zero_apply]
+  | add _ _ _ _ a₁ a₂ => rw [LinearMap.add_apply, a₁, a₂, add_zero]
+  | smul _ _ _ m => rw [LinearMap.smul_apply, smul_eq_mul, m, mul_zero]
```
[the remark this answers is not in the document]
Comment (jano-wol) [reply Mathlib/LinearAlgebra/RootSystem/Defs.lean]: Thanks for the review, I applied your suggestions!

File: Mathlib/LinearAlgebra/RootSystem/Irreducible.lean [hunk 2]
```diff
@@ -138,4 +138,70 @@ lemma span_root_image_eq_top_of_forall_orthogonal (s : Set ι)
...
+  by_cases h_zero : v = 0
+  · subst h_zero
+    simp only [Submodule.zero_mem]
+  have : (P.coroot' i) v • P.root i ∈ q := by
+    simpa using (Submodule.sub_mem_iff_right q hv).mp (h₁ hv)
+  by_contra h_ne
+  have : P.root i ∈ q := by
+    have := Submodule.smul_mem q (((P.coroot' i) v)⁻¹) this
+    rwa [inv_smul_smul₀ h_ne] at this
+  contradiction
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Irreducible.lean:161]: My thoughts here are:

- This is really a lemma about reflections rather than root pairings so let's place it in the file `Mathlib.LinearAlgebra.Reflection`.
- Rather than having a lemma whose conclusion is an `or`, it is usually more convient to "resolve" one branch by adding a hypothesis.
- There is a converse so we might as well make this an iff lemma.
- We don't need to assume field coefficients if we replace `P.root i ∈ q` with a stronger statement.

Bearing all this in mind I suggest placing the following just below `Submodule.mem_invtSubmodule_reflection_of_mem`:
```lean
lemma _root_.Submodule.mem_invtSubmodule_reflection_iff [NeZero (2 : R)] [NoZeroSMulDivisors R M]
    (h : f x = 2) {p : Submodule R M} (hp : Disjoint p (R ∙ x)) :
    p ∈ End.invtSubmodule (reflection h) ↔ p ≤ LinearMap.ker f := by
  refine ⟨fun h' y hy ↦ ?_, fun h' y hy ↦ ?_⟩
  · have hx : x ≠ 0 := by rintro rfl; exact two_ne_zero (α := R) <| by simp [← h]
    suffices f y • x ∈ p by
      have aux : f y • x ∈ p ⊓ (R ∙ x) := ⟨this, Submodule.mem_span_singleton.mpr ⟨f y, rfl⟩⟩
      rw [hp.eq_bot, Submodule.mem_bot, smul_eq_zero] at aux
      exact aux.resolve_right hx
    specialize h' hy
    simp only [Submodule.mem_comap, LinearEquiv.coe_coe, reflection_apply] at h'
    simpa using p.sub_mem h' hy
  · have hy' : f y = 0 := by simpa using h' hy
    simpa [reflection_apply, hy']
```

File: Mathlib/LinearAlgebra/RootSystem/Irreducible.lean [hunk 3]
```diff
@@ -138,4 +138,70 @@ lemma span_root_image_eq_top_of_forall_orthogonal (s : Set ι)
...
+
+lemma root_subset_characterization {K : Type*} [Field K] [Module K M] [Module K N]
+    (q : Submodule K M) (P : RootPairing ι K M N)
+    (h₁ : ∀ i, q ∈ invtSubmodule (P.reflection i)) :
+    ∃ (Φ : Set ι), (∀ i ∈ Φ, P.root i ∈ q) ∧ (∀ i ∉ Φ, q ≤ ker (P.coroot' i)) := by
+  use {i | P.root i ∈ q}
+  constructor
+  · exact fun _ => id
+  intro i hi
+  exact (root_mem_or_subset_ker_coroot q P i (h₁ i)).resolve_left hi
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Irreducible.lean:171]: Again we can avoid assuming field coefficients if we tweak the statement slightly. How about this (maybe just above the `variable [NeZero (2 : R)] [P.IsIrreducible]` assumptions above):
```suggestion
lemma exist_root_mem_le_ker_coroot'_of_mem_invtSubmodule
    [NeZero (2 : R)] [NoZeroSMulDivisors R M] (q : Submodule R M)
    (hq : ∀ i, q ∈ invtSubmodule (P.reflection i)) :
    ∃ Φ : Set ι, (∀ i ∈ Φ, P.root i ∈ q) ∧
      (∀ i, Disjoint q (R ∙ P.root i) → q ≤ ker (P.coroot' i)) := by
  refine ⟨{i | P.root i ∈ q}, by simp, fun i hi ↦ ?_⟩
  rw [← Submodule.mem_invtSubmodule_reflection_iff (by simp) hi]
  exact hq i
```

**Review by ocfnash — COMMENTED** [review]
Thanks for all the work so far, this is very close now.

File: Mathlib/LinearAlgebra/RootSystem/Irreducible.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/Irreducible.lean:161]: Oh I should mention an evil thing that Mathlib does: there are two different unicode characters with very similar glyphs in the above. There is:

- `•` appearing in `f y • x` (with VSCode escape sequence `\bu`)
- `∙` appearing in `Disjoint p (R ∙ x)` (with VSCode escape sequence `\span`)

File: Mathlib/LinearAlgebra/RootSystem/Irreducible.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/Irreducible.lean:171]: As you highlighted in a DM on Zulip, my suggested modification above is nonsense. Looking more carefully now I think perhaps the following might be the "right" version of this lemma:
```lean
lemma exist_set_root_not_disjoint_and_le_ker_coroot'_of_invtSubmodule
    [NeZero (2 : R)] [NoZeroSMulDivisors R M] (q : Submodule R M)
    (hq : ∀ i, q ∈ invtSubmodule (P.reflection i)) :
    ∃ Φ : Set ι, (∀ i ∈ Φ, ¬ Disjoint q (R ∙ P.root i)) ∧ (∀ i ∉ Φ, q ≤ ker (P.coroot' i)) := by
  refine ⟨{i | ¬ Disjoint q (R ∙ P.root i)}, by simp, fun i hi ↦ ?_⟩
  simp only [mem_setOf_eq, not_not] at hi
  rw [← Submodule.mem_invtSubmodule_reflection_iff (by simp) hi]
  exact hq i
```
In combination with [Submodule.disjoint_span_singleton'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Span/Basic.html#Submodule.disjoint_span_singleton') the field version follows trivially.

File: Mathlib/LinearAlgebra/RootSystem/Defs.lean [hunk 4]
```diff
@@ -587,30 +587,43 @@ lemma corootSpan_mem_invtSubmodule_coreflection (i : ι) :
     P.corootSpan ∈ Module.End.invtSubmodule (P.coreflection i) :=
   P.flip.rootSpan_mem_invtSubmodule_reflection i
 
-lemma coe_rootSpan_dualAnnihilator_map :
-    P.rootSpan.dualAnnihilator.map P.toDualRight.symm = {x | ∀ i, P.root' i x = 0} := by
+lemma rootSpan_dualAnnihilator_map_eq_iInf_ker_root' :
+    P.rootSpan.dualAnnihilator.map P.toDualRight.symm = ⨅ i, LinearMap.ker (P.root' i) := by
+  ext x
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Defs.lean:592]:
```suggestion
```

File: Mathlib/LinearAlgebra/RootSystem/Irreducible.lean [hunk 5]
```diff
@@ -138,4 +138,70 @@ lemma span_root_image_eq_top_of_forall_orthogonal (s : Set ι)
...
+      have : q ≤ ⨅ i, LinearMap.ker (P.coroot' i) := by
+        intro v hv
+        rw [Submodule.mem_iInf]
+        exact fun i ↦ c i hv
+      rw [RootPairing.iInf_ker_coroot'_eq] at this
+      have h₂ : (span K (range P.coroot')).dualCoannihilator ≤
+          (⊤ : Submodule K (Module.Dual K M)).dualCoannihilator := by
+        simp only [RootPairing.span_coroot'_eq_top, le_refl]
+      exact fun _ a ↦ h₂ (this a)
+    rw [Submodule.dualCoannihilator_top (K := K) (M := M)] at h₁
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Irreducible.lean:200]: Fix build
```suggestion
    rw [Submodule.dualCoannihilator_top (R := K) (M := M)] at h₁
```

File: Mathlib/LinearAlgebra/RootSystem/Irreducible.lean (hunk 2 above)
Comment (jano-wol) [reply Mathlib/LinearAlgebra/RootSystem/Irreducible.lean]: Improvement taken, thanks!

File: Mathlib/LinearAlgebra/RootSystem/Irreducible.lean [hunk 6]
```diff
@@ -139,3 +148,41 @@ lemma span_root_image_eq_top_of_forall_orthogonal (s : Set ι)
...
+    exact False.elim (h₀ ((Submodule.eq_bot_iff q).mpr h₁))
+  · have b' : P.root '' Φ ⊆ q := by
+      intro v ⟨i, s₁, s₂⟩
+      have := b i s₁
+      rw [s₂] at this
+      by_contra! s₃
+      exact False.elim (this (Submodule.disjoint_span_singleton_of_not_mem s₃))
+    have hu := h₂ Φ (Set.nonempty_iff_ne_empty.mpr hΦ) b' c
+    subst hu
+    rw [eq_top_mono (span_le.mpr b') (by rw [image_univ, span_root_eq_top])]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Irreducible.lean:186]: No mathematical change, mostly just a golf (containing a few nice tricks you might like):
```suggestion
/-
Note that this actually holds for `RootPairing` provided we:
 * assume `RootPairing.IsBalanced`,
 * replace the assumption `q ≠ ⊥` with `¬ Disjoint P.rootSpan q`,
 * replace the conclusion `q = ⊤` with `P.rootSpan ≤ q`.
-/
lemma eq_top_of_mem_invtSubmodule_of_forall_eq_univ
    {K : Type*} [Field K] [NeZero (2 : K)] [Module K M] [Module K N]
    (P : RootSystem ι K M N)
    (q : Submodule K M)
    (h₀ : q ≠ ⊥)
    (h₁ : ∀ i, q ∈ invtSubmodule (P.reflection i))
    (h₂ : ∀ Φ, Φ.Nonempty → P.root '' Φ ⊆ q → (∀ i ∉ Φ, q ≤ ker (P.coroot' i)) → Φ = univ) :
    q = ⊤ := by
  obtain ⟨Φ, b, c⟩ := P.exist_set_root_not_disjoint_and_le_ker_coroot'_of_invtSubmodule q h₁
  rcases Φ.eq_empty_or_nonempty with rfl | hΦ
  · replace c : q ≤ ⨅ i, LinearMap.ker (P.coroot' i) := by simpa using c
    simp [h₀, ← P.corootSpan_dualAnnihilator_map_eq_iInf_ker_coroot'] at c
  · replace b : P.root '' Φ ⊆ q := by
      simpa [Submodule.disjoint_span_singleton' (P.ne_zero _)] using b
    simpa [h₂ Φ hΦ b c, ← span_le] using b
```
Usually I'd actually implement that comment but as it is extremely unlikely to be directly useful and also requires reordering some imports I think just capturing this in a comment is the right compromise.

**Review by ocfnash — APPROVED** [review]
Thanks, please apply the final suggestions and then feel free to merge!

bors d+

File: Mathlib/LinearAlgebra/RootSystem/Defs.lean [hunk 7]
```diff
@@ -587,30 +587,42 @@ lemma corootSpan_mem_invtSubmodule_coreflection (i : ι) :
...
 lemma rootSpan_dualAnnihilator_map_eq :
     P.rootSpan.dualAnnihilator.map P.toDualRight.symm =
       (span R (range P.root')).dualCoannihilator := by
   apply SetLike.coe_injective
-  rw [Submodule.coe_dualCoannihilator_span, coe_rootSpan_dualAnnihilator_map]
-  simp
+  rw [Submodule.coe_dualCoannihilator_span, P.rootSpan_dualAnnihilator_map_eq_iInf_ker_root']
+  ext x
+  simp only [Submodule.iInf_coe, mem_iInter, SetLike.mem_coe, LinearMap.mem_ker, mem_range,
+    forall_exists_index, forall_apply_eq_imp_iff, mem_setOf_eq]
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/Defs.lean:611]: (I can't make this a suggestion because of limitations of GH UI)
